US07259266B2
The 5-chloro-7-methyl-1H-indole-2,3-dione (25.0 g, 0.13 mol), potassium hydroxide (8.4 g, 0.15 mmol) and 30% hydrogen peroxide (21.6 g, 0.18 mol) were mixed together in methanol (300 mL) at 0° C. for 2 h followed by 16 h at room temperature. The solution was poured into ethyl acetate (500 mL) and extracted with I N hydrochloric acid (3×200 mL) followed by brine (1×50 mL). The solution was dried over sodium sulfate and solvent removed at reduced pressure. The 2-amino-5-chloro-3-methylbenzoic acid (18.0 g, 0.10 mmol) was isolated as a yellow solid (75% yield). HRMS m/z 185.0238; calcd 185.0244.

reactant | 5-chloro-7-methyl-1H-indole-2,3-dione | 0.13 mol, 25.0 g | ClC=1C=C2C(C(NC2=C(C1)C)=O)=O | C9H6ClNO2
reactant | potassium hydroxide | 0.15 mmol, 8.4 g | [OH-].[K+]
reactant | hydrogen peroxide | 0.18 mol, 21.6 g | OO | H2O2
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 mL | CO | CH4O
product | 2-amino-5-chloro-3-methylbenzoic acid | 0.10 mmol, 18.0 g | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
